### PR TITLE
Create BasicDefinitionsUTxO_lists_new.v

### PR DESCRIPTION
**Pull request by polinavino**
## Type of change

- [ ] 🐞 Bug fix (non-breaking change which fixes an issue)
- [ ] 🛠 New feature (non-breaking change which adds functionality)
- [ ] ⚠️ Breaking change (fix or feature that would cause existing functionality to change)
- [ ] 🏭 Refactoring that does not change existing functionality but does improve things like code readability, structure etc
- [ ] 🔨 New or improved tests for existing code
- [ ] ⛑ git-flow chore (backport, hotfix, etc)

## Developer checklist

- [ ] I have read the [style guide](https://github.com/input-output-hk/cardano-sl/blob/develop/docs/style-guide.md) document, and my code follows the code style of this project.
- [ ] If my code deals with exceptions, it follows the [guidelines](https://github.com/input-output-hk/cardano-sl/blob/develop/docs/exceptions.md).
- [ ] I have updated any documentation accordingly, if needed. Documentation changes can be reflected in opening a PR on [cardanodocs.com](https://github.com/input-output-hk/cardanodocs.com), amending the inline [Haddock](https://www.haskell.org/haddock/) comments, any relevant README file or one of the document listed in the [docs](https://github.com/input-output-hk/cardano-sl/tree/develop/docs) directory.

## Testing checklist

- [ ] I have added tests to cover my changes.
- [ ] All new and existing tests passed.

### CODE REVIEW

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 1]
```diff
@@ -0,0 +1,1365 @@
...
+
+Variable a1 : Addr.
+Variable a2 : Addr.
+Variable a3 : Addr.
+Variable a4 : Addr.
+Variable a5 : Addr.
+
+
+(* currency value *)
+Definition Coin := nat.
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: Don't we need a limit for `Coin` and `Ix`? In the implementation this will not be arbitrary precision but fixed size bit vectors I suppose?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 2]
```diff
@@ -0,0 +1,1365 @@
...
+}.
+
+Coercion fm : FinMapWD >-> FinMap.
+
+(* transaction output with index Ix *)
+Definition IxTxOut : Type := @FinMapWD Ix TxOut.
+
+
+(* transaction *)
+Inductive Tx := MkTx : Pow (Tx * Ix) -> IxTxOut -> Tx.
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: `Pow (TxIn)` with below definition

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 3]
```diff
@@ -0,0 +1,1365 @@
...
+Variable tx_distinct : 
+~(tx1 = tx2) /\ ~(tx1 = tx3) /\ ~(tx2 = tx3).
+
+Notation "# u" := (@fm _ _ u) (at level 50).
+Notation "#iu u" := (@ins_unique_f _ _ u) (at level 50).
+
+(* FinMapWD's are equal whenever underlying finite maps are equal *)
+Lemma pf_ir_utxo : forall A B (u v : @FinMapWD A B), (#u = #v) -> u = v.
+Proof. 
+  intros A B u v H. destruct u; destruct v.
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: I get the goal "Hyps |- u = v -> u = v" is this a notational / syntactic issue ? or is this about decidability ?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 4]
```diff
@@ -0,0 +1,1365 @@
...
+
+(* pending transactions *)
+Definition Pending := Pow Tx.
+
+
+(* FILTERED SETS *)
+
+(* our addresses *)
+Variable ours : Addr -> bool.
+
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: is there no definition for `TxId`?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 5]
```diff
@@ -0,0 +1,1365 @@
...
+(* our unspent transaction outputs *)
+Definition TxOuts_ours (outs : Outs) := filter (fun a => ours (fst a)) outs.
+
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: isn't this the definition of `Addr_ours` ?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 6]
```diff
@@ -0,0 +1,1365 @@
...
+Fixpoint TxOuts_ours (outs : Outs) := 
+  match outs with
+  | nil => nil
+  | a :: l => if ours (fst a) then a :: TxOuts_ours l else TxOuts_ours l
+  end.*)
+
+(* OPERATIONS ON UTxO *)
+
+(* disjoint union of UTxOs *)
+Definition unionUTxO (u v : UTxO) (pf :#iu (#u++#v)) : UTxO.
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: how are `u` and `v` guarateed to be disjoint here?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 7]
```diff
@@ -0,0 +1,1365 @@
...
+  simpl. auto. destruct a as (a,b).
+ compute. destruct ((fix split (l0 : list (A * B)) : list A * list B :=
+       match l0 with
+       | nil => (nil, nil)
+       | (x, y) :: tl => let (left, right) := split tl in (x :: left, y :: right)
+       end)). auto.
+Qed.
+
+(* in u implies in d_r u *)
+Lemma in_dr : forall a u ins, In a (fst (split (d_r_fm ins u))) ->
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: isn't this the other way round in the lemma ?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 8]
```diff
@@ -0,0 +1,1365 @@
...
+  In a (fst (split u)).
+Proof.
+  intros a u ins H. induction u. compute in H. auto.
+  rewrite split_one.
+  simpl.  simpl in H. destruct (in_dec decTxIn (fst a0) ins).
+  rewrite split_one in H; simpl in H. tauto. tauto. 
+Qed.
+
+(* in u implies in d_r u *)
+Lemma in_dr_n : forall a u ins, ~ In a (fst (split u)) ->
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: (* NOTE: doesn't this show that
             ~(~in u /\ in d_r u)
         <-> in u \/ ~in d_r u
         <-> in d_r u -> in u
         holds? *)

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 9]
```diff
@@ -0,0 +1,1365 @@
...
+
+(* domain exclusion *)
+Fixpoint d_e_fm (ins : Ins) (u : FinMap TxIn TxOut) : FinMap TxIn TxOut :=
+  match u with
+  | nil => nil
+  | io::v => (if (in_dec decTxIn (fst io) ins) then (d_e_fm ins v) else (io :: d_e_fm ins v) ) 
+  end.  
+
+(* in ins implies not in d_e_fm *)
+Lemma in_ins_de : forall a u ins, In a (fst (split (d_e_fm ins u))) ->
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: is this the correct description?

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v [hunk 10]
```diff
@@ -0,0 +1,1365 @@
...
+Ltac prove_eq_props2 a ins pf ins_unique0 H IHutxo0 := 
+  unfold In in H; unfold d_r_fm in H; simpl in H;
+  unfold In; unfold ins_unique_f in ins_unique0; simpl; auto;
+  unfold In in IHutxo0; unfold ins_unique_f in IHutxo0; 
+  simpl in IHutxo0; simpl in pf;
+  try (rewrite split_one in ins_unique0); try (inversion ins_unique0);
+  destruct (in_dec decTxIn (fst a) ins);
+  unfold ins_unique_f in pf; try (rewrite split_one in pf); try (inversion pf); simpl;
+  simpl in H; try tauto. 
+
```
Comment (mgudemann) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO_lists_new.v]: I think it would be good to add notation for range/domain restriction/exclusion
